US08039463B2
HOBt (34 mg, 0.25 mmol) and DIPEA (67.9 mg, 0.51 mmol) were added to a stirred solution of 4-chloro-2,5-difluoro-benzoic acid (40 mg, 0.21 mmol) in DMF (1 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (48 mg, 0.25 mmol) followed by N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide.hydrochloride (75 mg, 0.2 mmol) were added. The mixture was stirred at room temperature overnight then diluted with water. The resulting precipitate was filtered then purified by column chromatography using silica gel 60-120 mesh and 60% ethyl acetate in hexane to afford 24 mg (23%) of N-biphenyl-4-yl-3-[4-(4-chloro-2,5-difluoro-benzoyl)-piperazin-1-yl]-3-oxo-propionamide. LCMS: 498.18 (M+1)+, 97.0%. 1H NMR: (CDCl3): δ 9.6 (d, 1H), 7.52 (m, 6H), 7.49 (t, 2H), 7.35 (t, 1H), 7.25 (t, 1H), 3.7 (m, 3H), 3.56 (d, 3H), 3.55 (d, 2H), 3.4 (m, 2H).

reactant | HOBt | 0.25 mmol, 34 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.51 mmol, 67.9 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-2,5-difluoro-benzoic acid | 0.21 mmol, 40 mg | ClC1=CC(=C(C(=O)O)C=C1F)F | C7H3ClF2O2
reactant | EDCI.HCl | 0.25 mmol, 48 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide.hydrochloride | 0.2 mmol, 75 mg | Cl.C1(=CC=C(C=C1)NC(CC(N1CCNCC1)=O)=O)C1=CC=CC=C1
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-3-[4-(4-chloro-2,5-difluoro-benzoyl)-piperazin-1-yl]-3-oxo-propionamide | 24 mg, 23% | C1(=CC=C(C=C1)NC(CC(=O)N1CCN(CC1)C(C1=C(C=C(C(=C1)F)Cl)F)=O)=O)C1=CC=CC=C1 | C26H22ClF2N3O3
